US07767675B2
Step 1. 1-[(4-bromophenoxy)acetyl]pyrrolidine
Oxalyl chloride (0.5 mL, 5.9 mmol) was added to a suspension of (4-bromophenoxy)acetic acid (0.462 g, 2.0 mmol) in methylene chloride (10 mL) and 2 drops of N,N-dimethylformamide. The mixture was stirred at RT for 2 h. The solvent was evaporated under reduced pressure. The residue was diluted with methylene chloride (10 mL), cooled with ice-water bath, and 1M of sodium hydroxide aqueous solution (3.0 mL) was added. To the mixture was added pyrrolidine (167 μL, 2.0 mmol). The mixture was stirred and allowed to warm to RT. The organic layer was separated, washed with water and brine, dried over Na2SO4, filtered, and concentrated. The residue was directly used in next step without further purification (550 mg, 96.7%). LCMS: (M+H)=286.0/284.0

reactant | Oxalyl chloride | 5.9 mmol, 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (4-bromophenoxy)acetic acid | 2.0 mmol, 0.462 g | BrC1=CC=C(OCC(=O)O)C=C1 | C8H7BrO3
reactant | pyrrolidine | 2.0 mmol, 167 μL | N1CCCC1 | C4H9N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 1-[(4-bromophenoxy)acetyl]pyrrolidine | BrC1=CC=C(OCC(=O)N2CCCC2)C=C1 | C12H14BrNO2
